US05559230
5-Oxo-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.50 g) is suspended in tetrahydrofuran (20 ml), and thereto is added dropwise a 3.0M solution of methyl magnesium bromide in diethyl ether (1.5 ml) at room temperature. The mixture is stirred at room temperature for 1 hour. The reaction solution is poured into ice-water (20 ml), and extracted with ethyl acetate. The extract is dried over magnesium sulfate, and the solvent is distilled off. The resulting residue is purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=2:3→1:1), and recrystallized from ethyl acetate/n-hexane to give 5-methyl-5-hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.23 g) as white powder, m.p. 204°-205° C.

reactant | 5-Oxo-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.50 g | O=C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C25H22N2O3
reactant | methyl magnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 1.5 ml | C(C)OCC | C4H10O
product | 5-methyl-5-hydroxy-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.23 g | CC1(CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O)O | C26H26N2O3
